US07732456B2
(1) Preparation of 5-bromo-2-(2,2-diethoxyethoxy)pyrimidine
2,2-Diethoxyethanol (1.6 g) and cesium carbonate (5.8 g) were added to DMF solution (10 mL) of 5-bromo-2-chloropyrimidine (1.15 g), and stirred at room temperature for 12 hours. After addition of water, the reaction liquid was extracted with ethyl acetate and dried over anhydrous magnesium sulfate. Concentrating the solvent under reduced pressure, the residue was purified on silica gel column chromatography (C-200; ethyl acetate:hexane=1:9-1:4) to provide the title compound (1.63 g, 94%).

reactant | 2,2-Diethoxyethanol | 1.6 g | C(C)OC(CO)OCC | C6H14O3
reactant | cesium carbonate | 5.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | 5-bromo-2-chloropyrimidine | 1.15 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
solvent | water | O | H2O
product | 5-bromo-2-(2,2-diethoxyethoxy)pyrimidine | 1.63 g, 94% | BrC=1C=NC(=NC1)OCC(OCC)OCC | C10H15BrN2O3
